US04476311
(A) 3-Methoxybenzylidenaniline
A solution of 85.4 gm. of 3-methoxybenzaldehyde, 58.7 gm. of aniline, and 185 gm. of 3A molecular sieves in 700 ml. of anhydrous ether was refluxed for 16 hours. The ether was dried (Na2SO4), filtered, and concentrated in vacuo to an oil which upon distillation provided 93.2 gm of oil. b.p. 141°-143°/0.5 Torr.

reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ether | CCOCC | C4H10O
product | 3-Methoxybenzylidenaniline | 93.2 gm | COC=1C=C(C=NC2=CC=CC=C2)C=CC1 | C14H13NO
